US20010014688A1
Part A: To a solution of the propargyl amine of Part B. Example 38 (2 g, 5.6 mmol) and powdered K2CO3 (1.9 g, 13.7 mmol) in N,N-dimethylformamide (20 mL) was added 3,5-dimethoxyphenol (2.18 g, 13.7 mmol) at ambient temperature. The resulting composition was heated to 90 degrees Celsius for 36 hours. The solution was concentrated under high vacuum and the residue was dissolved in ethyl acetate. The organic layer was washed with 1N NaOH, H2O and dried over MgSO4. Chromatography (on silica, ethyl acetate/hexane) provided phenoxy propargyl amine as light yellow gel (2.76 g, quantitative yield).

reactant | propargyl amine | C(C#C)N | C3H5N
reactant | K2CO3 | 13.7 mmol, 1.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dimethoxyphenol | 13.7 mmol, 2.18 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | phenoxy propargyl amine | 2.76 g, quantitative yield | O(C1=CC=CC=C1)NCC#C | C9H9NO
